US04419352
6-Chloro-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylic acid
Cold hypophosphorous acid (50%, 20 ml) was added slowly to a solution of sodium nitrite (3.7 g) in sulphuric acid (100 ml) diluted with water (50 ml), maintaining the temperature from -5° to -10°. The reaction mixture was cooled to -15°, and a cooled solution containing 5-amino-6-chloro-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylic acid (0.753 g) in acetic acid (200 ml), added over two hours maintaining the temperature between -10° and -15°. When the addition was complete, the slurry was stirred for an hour, and the mixture allowed to warm to 5° C. The mixture was stored in a refrigerator overnight, with the evolution of nitrogen and oxides of nitrogen. Filtration of the reaction mixture, and recrystallisation from ethyl acetate, gave 0.43 g of the title compound, mp 338°-340° C.

reactant | hypophosphorous acid | 20 ml | [PH2](=O)O | H3O2P
reactant | sodium nitrite | 3.7 g | N(=O)[O-].[Na+]
reactant | 5-amino-6-chloro-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylic acid | 0.753 g | NC1=C2C(=CC(=NC2=C(C2=C1C(C=C(O2)C(=O)O)=O)CCC)C(=O)O)Cl | C17H13ClN2O6
solvent | sulphuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 6-Chloro-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylic acid | 0.43 g | ClC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)O)=O)CCC)C(=O)O | C17H12ClNO6
